US08633319B2
7-(1-Ethyl-1H-pyrazol-4-yl)-5-({[(3S)-3-fluoro-3-piperidinyl]methyl}oxy)-1,6-naphthyridine
To a solution of 1,1-dimethylethyl (3S)-3-({[7-(1-ethyl-1H-pyrazol-4-yl)-1,6-naphthyridin-5-yl]oxy}methyl)-3-fluoro-1-piperidinecarboxylate (1.1 g, 2.415 mmol) in DCM (3 ml) was added trifluoroacetic acid (3 ml, 38.9 mmol) and this was stirred at room temp for 3 h. The reaction had gone to completion and so was concentrated in vacuo to yield the crude product. The TFA salt was dissolved in methanol and loaded onto an SCX cartridge (20 g). The impurities were eluted with methanol, and the product was eluted with 2M ammonia in methanol. The filtrate was concentrated in vacuo to yield a cream gummy solid (620 mg). This was purified by large-scale MDAP (Method C). The appropriate vials were combined and concentrated in vacuo to give the product as the TFA salt. To form the free base, this was dissolved in methanol and purified through an SCX cartridge (20 g) eluting with methanol. The product was eluted with 2M ammonia in methanol. The filtrate was concentrated in vacuo to yield the title compound as a clear glass (500 mg).

reactant | 1,1-dimethylethyl (3S)-3-({[7-(1-ethyl-1H-pyrazol-4-yl)-1,6-naphthyridin-5-yl]oxy}methyl)-3-fluoro-1-piperidinecarboxylate | 2.415 mmol, 1.1 g | C(C)N1N=CC(=C1)C1=NC(=C2C=CC=NC2=C1)OC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C24H30FN5O3
reactant | trifluoroacetic acid | 38.9 mmol, 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 7-(1-Ethyl-1H-pyrazol-4-yl)-5-({[(3S)-3-fluoro-3-piperidinyl]methyl}oxy)-1,6-naphthyridine | 620 mg | C(C)N1N=CC(=C1)C1=NC(=C2C=CC=NC2=C1)OC[C@]1(CNCCC1)F | C19H22FN5O
